US06599902B2
A mixture of (+)-carbobenzyloxy-D-proline (1.5 g, 6 mmol), EDAC (2.3 g, 12 mmol), HOBt (800 mg, 6 mmol), TEA (1.5 mL) and pyrrolidine (853 mg, 12 mmol) in DMF (20 mL) was stirred at rt for 18 hours. The reaction was diluted with water and sodium bicarbonate, extracted with DCM (3×). The combined DCM was concentrated and purified on a silica gel column to give (R)-2-(pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid benzyl ester.

reactant | (+)-carbobenzyloxy-D-proline | 6 mmol, 1.5 g | C(=O)(OCC1=CC=CC=C1)N1[C@@H](C(=O)O)CCC1 | C13H15NO4
reactant | EDAC | 12 mmol, 2.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 6 mmol, 800 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | pyrrolidine | 12 mmol, 853 mg | N1CCCC1 | C4H9N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (R)-2-(pyrrolidine-1-carbonyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C(=O)N1CCCC1 | C17H22N2O3
